US04377522
A solution of 500 mg of benzyl [1-[[2-(o-fluorobenzoyl)-4-nitrophenyl]-carbamoyl]-1-methyl-ethyl]carbamate (1.043 mol) and 150 mg of potassium t-butanolate in 20 ml of t-butanol is treated with 0.15 ml of methyl iodide and stirred at room temperature for 2.5 days. The reaction mixture is buffered with glacial acetic acid and concentrated. The residue is partitioned between methylene chloride and 10 percent aqueous sodium bicarbonate solution. After drying the organic phase overnight and concentrating, the residue is chromatographed on a pressure column containing 10 g of silica gel (particle size 0.04-0.06 mm) under 0.2-0.4 atmospheres of nitrogen with methylene chloride/ethyl acetate (20:1) as the elution agent. There is obtained benzyl [1-[[2-(o-fluorobenzoyl)-4-nitrophenyl]-methylcarbamoyl]-1-methyl-ethyl]carbamate of melting point 168°-169° (ether/n-hexane).

reactant | benzyl [1-[[2-(o-fluorobenzoyl)-4-nitrophenyl]-carbamoyl]-1-methyl-ethyl]carbamate | 1.043 mol, 500 mg | FC1=C(C(=O)C2=C(C=CC(=C2)[N+](=O)[O-])NC(=O)C(C)(C)NC(OCC2=CC=CC=C2)=O)C=CC=C1 | C25H22FN3O6
reactant | potassium t-butanolate | 150 mg | C(C)(C)(C)[O-].[K+]
reactant | methyl iodide | 0.15 ml | CI | CH3I
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | t-butanol | 20 ml | C(C)(C)(C)O | C4H10O
product | benzyl [1-[[2-(o-fluorobenzoyl)-4-nitrophenyl]-methylcarbamoyl]-1-methyl-ethyl]carbamate | FC1=C(C(=O)C2=C(C=CC(=C2)[N+](=O)[O-])N(C(=O)C(C)(C)NC(OCC2=CC=CC=C2)=O)C)C=CC=C1 | C26H24FN3O6
